Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Enalapril / A.C.E Inhibitors / Iodine / Codeine
 
Attending: ___.
 
Chief Complaint:
Palpitations 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ F with recent dx of L1 compression fracture of unknown 
duration, DM2, HTN, schizoaffective disorder, severe tardive 
dyskinesia, COPD on O2 who was brought in by ambulance for 
hypotension.  
Patient had palpitations and lightheadedness this morning. When 
___ arrived, BP was ___. EMS was called, with ___ calling in 
for BP ___ at home, tachycardic to 140s (SVT on EMS strip), 
and hyperglycemic to 300s. SVT resolved spontaneously.  
.  
.  
In the ED, initial VS were: 97.9 77 88/69 20 100. EKG was NSR, 
CXR negative. D-dimer was 1105, so CTA was performed which was 
negative for PE. Vitals on transfer were Afebrile HR 68 BP 
143/81 RR 26 96% on RA.  
.  
On the floor, patient is grunting from severe back pain. She 
denies any current palpitations, SOB, or CP. She mentions that 
she hasn't been taking any of her medications for over 1 week 
because she doesn't have enough money for them. She is 
inconsistent in that she then mentions that she was able to take 
some yesterday. Patient is unable to clarify, but mentions that 
she frequently cannot afford her medications.  
.  
.  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness. Denied nausea, vomiting, diarrhea, constipation or 
abdominal pain. No recent change in bowel or bladder habits. No 
dysuria. Denied arthralgias or myalgias.  

 
Past Medical History:
- Hypertension  
- Diabetes  
- Hyperlipidemia  
- Tardive dyskinesia  
- COPD on home O2  
- Tobacco abuse  
- Schizoaffective disorder  
- Chronic uritcaria  
- Depression  
- Colonic adenoma  
- Hypercholesterolemia  
- s/p tonsillectomy  
- s/p prophylactic appendectomy at time of hysterectomy  
- s/p total abdominal hysterectomy (pt has ovaries)  

 
Social History:
___
Family History:
Mother: ___, heart disease, hypertension, diabetes, anemia  
Sister: ___ cancer  
Father: ___, TB, passed away in ___  
Daughter: ___ 

 
Physical ___:
Vitals: T: 97.8 BP: 166/67 P: 75 R: 20 O2: 95% on 2L  
General: Alert, oriented, patient is rocking, and grunting from 
pain.  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

 
Pertinent Results:
Admission labs:
___ 04:35PM BLOOD WBC-7.7 RBC-5.03 Hgb-13.5 Hct-43.9 MCV-87 
MCH-26.9* MCHC-30.8* RDW-16.2* Plt ___
___ 05:55PM BLOOD ___ PTT-22.6 ___
___ 04:35PM BLOOD Glucose-310* UreaN-32* Creat-1.3* Na-142 
K-4.0 Cl-106 HCO3-24 AnGap-16
___ 04:35PM BLOOD CK-MB-5 cTropnT-<0.01
___ 04:35PM BLOOD CK(CPK)-208*
___ 04:35PM BLOOD Calcium-10.0 Phos-2.3* Mg-2.2
___ 05:55PM BLOOD D-Dimer-1105*
___ 06:25AM BLOOD TSH-0.33
___ 06:25AM BLOOD Free T4-0.90*
.
Discharge labs:
___ 06:25AM BLOOD WBC-6.5 RBC-4.70 Hgb-12.5 Hct-41.1 MCV-87 
MCH-26.6* MCHC-30.4* RDW-16.0* Plt ___
___ 01:20PM BLOOD Creat-0.7 Na-136 K-4.9
___ 01:20PM BLOOD Mg-1.8
.
___ ECG:
Sinus rhythm. Borderline left ventricular hypertrophy. Compared 
to the 
previous tracing of ___ no change. 
.
___ CXR:
No acute cardiopulmonary abnormality.
.
___ CTA chest:
1. No evidence of pulmonary embolism to the subsegmental levels. 
No evidence of dissection. 
2. Mild emphysema, with no focal consolidations or effusions. 
3. Unchanged mildly dilated ascending aorta (36 mm). 
4. Unchanged 3 mm myolipoma within the left adrenal gland. 
5. Stable 7-mm right thyroid nodule. Ultrasound study can be 
obtained if 
there is a clinical concern for any thyroid disease. 
 
Brief Hospital Course:
___ yo F with a history of DM2, HTN, schizoaffective disorder, 
tardive dyskinesia, COPD on O2, and recent L1 compression 
fracture, found to be in SVT and hypotensive earlier today, 
resolved.  
.  
# SVT: 140s on EMS rhythm strip. Unclear trigger or if patient 
has ever had this before. During hospitalization, no events on 
tele and no palpitations. Suspect SVT at home was due to not 
taking home meds, specifically diltiazem. QT interval normal on 
EKG, no delta wave. Electrolytes within normal limits. Continued 
home diltiazem and encouraged taking of home medications.
.  
# Medication noncompliance: Patient can't afford her 
medications. SW consulted, set-up with PCP ___, family updated.
.  
# Compression fracture: Unclear how long standing this has been 
but patient experiences pain with movement. ___ saw her and 
recommended home with ___. Lidoderm patch and nasal calcitonin 
for the pain, plus tylenol.
.  
# HTN: Continued Diltiazem, Valsartan. 
.  
# HL: Continued Simvastatin.  
.  
# COPD: Continued oxygen. Currently on 2L and has required home 
O2 since ___ per record review. Continued Albuterol PRN, 
tiotropium.  
.  
# Schizoaffective disorder: Continued outpatient regimen.
 
Medications on Admission:
1. ACETAMINOPHEN-CODEINE - 300 mg-30 mg po q4-6h PRN pain  
2. ALBUTEROL 2 puffs q4-6h PRN SOB  
3. CLONAZEPAM - 1 mg po qhs  
4. DILTIAZEM HCL [TIAZAC] - 360 mg po daily  
5. GLYBURIDE - 1.25 mg po daily  
6. IBUPROFEN - 400 mg po q4-6 hours PRN back pain  
7. OLANZAPINE - 10 mg po qhs  
8. PERPHENAZINE - 8 MG po qhs  
9. PIOGLITAZONE [ACTOS] - 45 mg po daily  
10. SIMVASTATIN - 40 mg po daily  
11. TETRABENAZINE - daily  
12. TIOTROPIUM BROMIDE - 18 mcg po daily  
13. VALSARTAN - 120mg po daily  
14. ASPIRIN - 325 mg po daily  

 
Discharge Medications:
1. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) puffs Inhalation every ___ hours as needed for shortness 
of breath or wheezing.  
2. Clonazepam 1 mg Tablet Sig: One (1) Tablet PO QHS (once a day 
(at bedtime)).  
3. Diltiazem HCl 180 mg Capsule, Sustained Release Sig: Two (2) 
Capsule, Sustained Release PO DAILY (Daily).  
4. Glyburide 2.5 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
5. Olanzapine 5 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
6. Perphenazine 8 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)).  
7. Pioglitazone 45 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. Tiotropium Bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
10. Valsartan 40 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
11. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

12. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily): 12 
hours on and 12 hours off. Apply to site of back pain.
Disp:*30 Adhesive Patch, Medicated(s)* Refills:*1*
13. Tetrabenazine 25 mg Tablet Sig: One (1) Tablet PO every 
morning.  
14. Ibuprofen 400 mg Tablet Sig: One (1) Tablet PO every ___ 
hours as needed for breakthrough back pain.  
15. Calcitonin (Salmon) 200 unit/Actuation Aerosol, Spray Sig: 
One (1) nasal spray Nasal once a day: Alternate nostrils every 
other day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Supraventricular tachycardia
Medication noncompliance
Compression fracture
Diabetes mellitus
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital with back pain, 
lightheadedness and low blood pressure. The back pain improved 
with pain medications; the other symptoms were likely due to a 
cardiac arrhythmia that did not re-occur while you were 
hospitalized. Perhaps both issues existed because you had missed 
doses of your home medications.
.
It is important that you take all your home medications as 
prescribed. If you cannot take them, due to cost or confusion 
etc., please call your primary care physician, ___ 
___ so that help can be provided.
.
Continue to take all your regular home medications, and add the 
following:
- START lidocaine patch daily (12 hours on, 12 hours off), to 
treat back pain
- START tylenol ___ three times a day, to treat back pain
- LIMIT the amount of ibuprofen taken for your back pain (use 
tylenol instead as a regular medication) and take it as needed 
for breakthrough pain up to a maximum of 400 mg every ___ hours 
as needed
- STOP tylenol #3 (also known as ACETAMINOPHEN-CODEINE) because 
this can cause confusion and lightheadedness
 
Followup Instructions:
___